US06313122B1
A. N1-(4-Methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine
A solution of N1-(4-methoxybenzoyl)-N2-(1-benzylpiperidin-4-ylcarbonyl)-1,2-benzenediamine (1.02 g, 2.30 †mmol), 1 N aqueous hydrochloric acid (5 mL), and 5% pallidium-on-carbon (1.06 g) in ethanol (100 mL) was placed under a hydrogen atmosphere (1 bar). After 16 h, the mixture was filtered through diatomaceous earth and the filtrate concentrated in vacuo. The residue was treated with 1 N aqueous sodium hydroxide followed by ethyl acetate. The aqueous layer was extracted twice with ethyl acetate and the combined organics were washed with 1 N aqueous sodium hydroxide, saturated sodium chloride solution, and dried (potassium carbonate). Concentration and recrystallization yielded 656 mg (81%) of the title compound.

reactant | N1-(4-methoxybenzoyl)-N2-(1-benzylpiperidin-4-ylcarbonyl)-1,2-benzenediamine | 1.02 g | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCN(CC2)CC2=CC=CC=C2)C=C1 | C27H29N3O3
reactant | hydrochloric acid | 1 N, 5 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N1-(4-Methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine | 656 mg, 81% | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCNCC2)C=C1 | C20H23N3O3
